US07807720B2
Ethyl 3-(4-fluoro-3,5-dimethylphenyl)-2-methylacrylate (A2)
Ethoxy-carbonylethylene triphenyl phosphorane (0.476 g, 1.314 mmol) and 3,5-dimethyl-4-fluorobenzaldehyde (0.200 g, 1.314 mmol) were weighed into a microwave tube followed by the addition of 3 mL of THF. After stirred under microwave irradiation at 100° C. for 1 h, the reaction mixture was concentrated under reduced pressure. The product was isolated by Flash column chromatography (silica gel column) eluting with 0-30% ethyl acetate/hexanes to give the title compound as a white solid (0.267 g, 86% yield). LC-MS: tR=10.6 & 11.3 min; m/z 237 (M+H)+.

reactant | Ethoxy-carbonylethylene triphenyl phosphorane | 1.314 mmol, 0.476 g | C(C)OC(=O)CCP(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H25O2P
reactant | 3,5-dimethyl-4-fluorobenzaldehyde | 1.314 mmol, 0.200 g | CC=1C=C(C=O)C=C(C1F)C | C9H9FO
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | Ethyl 3-(4-fluoro-3,5-dimethylphenyl)-2-methylacrylate | 0.267 g, 86% yield | FC1=C(C=C(C=C1C)C=C(C(=O)OCC)C)C | C14H17FO2
